* extracted by klt extract --deck sky130

* cell bias_core
* pin BIAS_OK,bias_ok
* pin IBIAS,ibias
* pin VDD,vdd
* pin VREF,vref
* pin VSS,vss
* pin ec
* pin ec
* pin er
* pin er
* pin ks1
* pin ks2
* pin ks3
* pin ks4
* pin n1
* pin n2
* pin n2
* pin na
* pin na
* pin na
* pin nb
* pin nb
* pin nbg
* pin nbtop
* pin nbtop
* pin nbtop
* pin nkg
* pin nkm
* pin nokl
* pin noko
* pin nokx
* pin nokx
* pin nt
* pin nz
* pin pb
* pin pb
* pin pb
* pin pg
* pin pg
* pin pg
* pin tok
* pin vref
.SUBCKT bias_core BIAS_OK|bias_ok IBIAS|ibias VDD|vdd VREF|vref VSS|vss ec ec$1
+ er er$1 ks1 ks2 ks3 ks4 n1 n2 n2$1 na na$1 na$2 nb nb$1 nbg nbtop nbtop$1
+ nbtop$2 nkg nkm nokl noko nokx nokx$1 nt nz pb pb$1 pb$2 pg pg$1 pg$2 tok vref
* device instance $1 r0 *1 26.42,101 nfet
M$1 nbg nbg VSS|vss VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $2 r0 *1 33.42,101 nfet
M$2 pb nbg VSS|vss VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $3 r0 *1 5460.42,101 nfet
M$3 nokl nokl VSS|vss VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $4 r0 *1 5467.92,101 nfet
M$4 noko nokl VSS|vss VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $5 r0 *1 5473.92,101 nfet
M$5 noko nkg VSS|vss VSS|vss nfet L=1U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $6 r0 *1 5480.42,101 nfet
M$6 nokx$1 noko VSS|vss VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U
+ PD=4.84U
* device instance $7 r0 *1 72.42,102 nfet
M$7 n1 n1 VSS|vss VSS|vss nfet L=8U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $8 r0 *1 83.42,102 nfet
M$8 n2$1 n1 VSS|vss VSS|vss nfet L=8U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $9 r0 *1 5486.67,102 nfet
M$9 BIAS_OK|bias_ok nokx$1 VSS|vss VSS|vss nfet L=0.5U W=4U AS=1.68P AD=1.68P
+ PS=8.84U PD=8.84U
* device instance $10 r0 *1 1346.58,104 nfet
M$10 VSS|vss nkg pg$1 VSS|vss nfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $11 r0 *1 1360.26,104 nfet
M$11 ks4 ks4 nkg VSS|vss nfet L=8U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $12 r0 *1 1370.1,104 nfet
M$12 ks3 ks3 ks4 VSS|vss nfet L=8U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $13 r0 *1 1379.94,104 nfet
M$13 ks2 ks2 ks3 VSS|vss nfet L=8U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $14 r0 *1 1389.78,104 nfet
M$14 ks1 ks1 ks2 VSS|vss nfet L=8U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $15 r0 *1 1399.62,104 nfet
M$15 VDD|vdd VDD|vdd ks1 VSS|vss nfet L=8U W=1U AS=0.42P AD=0.42P PS=2.84U
+ PD=2.84U
* device instance $16 r0 *1 1333.42,104 nfet
M$16 VSS|vss nkm nkm VSS|vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $17 r0 *1 42.42,104 nfet
M$17 pg$2 n2$1 VSS|vss VSS|vss nfet L=8U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $18 r0 *1 1352.42,104 nfet
M$18 nkg nkm VSS|vss VSS|vss nfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $19 r0 *1 1325.42,104 pfet
M$19 nkm pb$1 VDD|vdd VDD|vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $20 r0 *1 5452.42,115.47 pfet
M$20 tok pb$2 VDD|vdd VDD|vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $21 r0 *1 5479.42,115.47 pfet
M$21 nokx$1 pb$2 VDD|vdd VDD|vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U
+ PD=2.84U
* device instance $22 r0 *1 5488.42,115.47 pfet
M$22 BIAS_OK|bias_ok nokx$1 VDD|vdd VDD|vdd pfet L=4U W=1U AS=0.42P AD=0.42P
+ PS=2.84U PD=2.84U
* device instance $23 r0 *1 5461.42,118.97 pfet
M$23 nokl nbtop$1 tok VDD|vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $24 r0 *1 5470.58,118.97 pfet
M$24 tok na$1 noko VDD|vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $25 r0 *1 29.42,123.97 pfet
M$25 nbg pg$2 VDD|vdd VDD|vdd pfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $26 r0 *1 38.42,123.97 pfet
M$26 pg$2 pb VDD|vdd VDD|vdd pfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $27 r0 *1 47.42,123.97 pfet
M$27 pb pb VDD|vdd VDD|vdd pfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $28 r0 *1 65.42,123.97 pfet
M$28 nt pb VDD|vdd VDD|vdd pfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $29 r0 *1 2.42,126.97 pfet
M$29 nbtop$2 pg$2 VDD|vdd VDD|vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $30 r0 *1 11.42,126.97 pfet
M$30 VREF|vref pg$2 VDD|vdd VDD|vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $31 r0 *1 20.42,126.97 pfet
M$31 na$2 pg$2 VDD|vdd VDD|vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U
+ PD=16.84U
* device instance $32 r0 *1 74.42,130.97 pfet
M$32 n1 na$2 nt VDD|vdd pfet L=4U W=16U AS=6.72P AD=6.72P PS=32.84U PD=32.84U
* device instance $33 r0 *1 83.42,130.97 pfet
M$33 n2$1 nb$1 nt VDD|vdd pfet L=4U W=16U AS=6.72P AD=6.72P PS=32.84U PD=32.84U
* device instance $34 r0 *1 56.42,142.97 pfet
M$34 IBIAS|ibias pb VDD|vdd VDD|vdd pfet L=4U W=40U AS=16.8P AD=16.8P PS=80.84U
+ PD=80.84U
* device instance $35 r0 *1 151.7,101.7 pnp
Q$35 VSS|vss VSS|vss na pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $36 r0 *1 156.32,101.7 pnp
Q$36 VSS|vss VSS|vss er$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $37 r0 *1 201.7,101.7 pnp
Q$37 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $38 r0 *1 206.32,101.7 pnp
Q$38 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $39 r0 *1 210.94,101.7 pnp
Q$39 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $40 r0 *1 215.56,101.7 pnp
Q$40 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $41 r0 *1 201.7,105.5 pnp
Q$41 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $42 r0 *1 206.32,105.5 pnp
Q$42 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $43 r0 *1 210.94,105.5 pnp
Q$43 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $44 r0 *1 215.56,105.5 pnp
Q$44 VSS|vss VSS|vss ec$1 pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P
+ PC=14.4U NE=1
* device instance $45 r0 *1 5530.36,-46.5 sky130_fd_pr__model__cap_mim
C$45 VDD|vdd nokx 7.656e-14
* device instance $46 r0 *1 1405.52,-39.5 sky130_fd_pr__model__cap_mim
C$46 nz pg 8.152e-13
* device instance $47 r0 *1 9.17,-49 res_xhigh_po
R$47 nbtop nb VSS|vss 17500 res_xhigh_po L=17.5U W=2U
* device instance $48 r0 *1 196.76,-49 res_xhigh_po
R$48 nb ec VSS|vss 350000 res_xhigh_po L=350U W=2U
* device instance $49 r0 *1 883.6,-49 res_xhigh_po
R$49 n2 nz VSS|vss 1016000 res_xhigh_po L=1016U W=2U
* device instance $50 r0 *1 3471.44,-49 res_xhigh_po
R$50 vref er VSS|vss 4104000 res_xhigh_po L=4104U W=2U
.ENDS bias_core
